US04110337
(a) 2-Nitro-(2'-methyl-2'-cyanoethyl)-aniline
69 g (mol/2) of o-nitroaniline in solution in 270 ml of tetrahydrofuran are heated under reflux for 2 hours with 67 g (1 mol) of methacrylonitrile and 16 ml of a 40% solution of "Triton B" in methanol. After evaporation of the volatile substances under vacuum, washing the residue with water and then extraction with ethyl acetate, and after evaporation of the solvent, a yellow solid of melting point 44°-47° C. is obtained in a yield of 51.3 g = 50% (theoretical yield: 102.6 g). After recrystallisation from isopropanol and then from ethanol, there is obtained a yellow product of melting point 75°-76° C.

reactant | o-nitroaniline | 69 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | methacrylonitrile | 1 mol, 67 g | C(C(=C)C)#N | C4H5N
solvent | tetrahydrofuran | 270 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-Nitro-(2'-methyl-2'-cyanoethyl)-aniline | [N+](=O)([O-])C1=C(NCC(C#N)C)C=CC=C1 | C10H11N3O2
